US06858638B2
5-Amino-N-cyclohexyl-1H-indazole-3-carboxamide can be obtained in the following way: a suspension of 1.57 g of N-cyclohexyl-5-nitro-1H-indazole-3-carboxamide, of 80 ml of methanol, of 1.37 g of ammonium formate and of 0.314 g of palladium hydroxide is brought to reflux for two hours. The reaction medium is then brought back to a temperature in the region of 25° C. and filtered through Celite® through a sintered glass funnel. The solid obtained is washed with methanol and the filtrate is concentrated by evaporation under reduced pressure. The oil thus obtained is taken up with 80 ml of dichloromethane and 80 ml of water. The organic phase is washed with two times 60 ml of distilled water and the aqueous phases thus obtained are extracted with 80 ml of dichloromethane. The pooled organic phases are dried over magnesium sulfate, filtered and concentrated by evaporation under reduced pressure. 1.17 g of 5-amino-N-cyclohexyl-1H-indazole-3-carboxamide are thus obtained in the form of a pale pink solid (Rf=0.40, silica gel thin layer chromatography, eluent: dichloromethane/methanol (9/1 by volume)).

reactant | N-cyclohexyl-5-nitro-1H-indazole-3-carboxamide | 1.57 g | C1(CCCCC1)NC(=O)C1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C14H16N4O3
reactant | methanol | 80 ml | CO | CH4O
reactant | ammonium formate | 1.37 g | C(=O)[O-].[NH4+]
reactant | dichloromethane | 80 ml | ClCCl | CH2Cl2
catalyst | palladium hydroxide | 0.314 g | [OH-].[Pd+2].[OH-]
solvent | water | 80 ml | O | H2O
product | 5-amino-N-cyclohexyl-1H-indazole-3-carboxamide | 1.17 g | NC=1C=C2C(=NNC2=CC1)C(=O)NC1CCCCC1 | C14H18N4O
